US06156739
8-Hydroxy-3-N-methyl-2-methylquinazolin-4-[3 H]-one
A 1.0 M solution of BBr3 in DCM (2.9 ml, 2.9 mmol) was added to 8-methoxy-3-N-methyl-2-methylquinazolin-4-[3 H]-one (0.2 g, 0.98 mmol) to form a yellow suspension, which was gently refluxed for 48 hours. The solvent was directly distilled from the reaction vessel to leave a yellow/green solid, which was hydrolysed with 10% aq. NaOH solution to give a cream suspension. The suspension was neutralised with 1.0 M aqueous HCl and then extracted into EtOAc. The organic layers were combined, dried (MgSO4) and filtered. The solvent was removed under vacuum to leave a pale brown solid (0.18 g, 0.94 mmol, 96% crude yield). The product (0.16 g) was purified by column chromatography, using DCM:MeOH (98:2) as eluent to give a white solid (0.12 g, 0.56 mmol, 57%).

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | DCM | 2.9 mmol, 2.9 ml | C(Cl)Cl | CH2Cl2
reactant | 8-methoxy-3-N-methyl-2-methylquinazolin-4-[3 H]-one | 0.98 mmol, 0.2 g | COC=1C=CC=C2C(N(C(=NC12)C)C)=O | C11H12N2O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
product | 8-Hydroxy-3-N-methyl-2-methylquinazolin-4-[3 H]-one | 0.56 mmol, 0.12 g, 57% | OC=1C=CC=C2C(N(C(=NC12)C)C)=O | C10H10N2O2
